US08138187B2
4-Benzo[b]thiophen-2-yl-4-dimethylamino-cyclohexanone (Ket-6)
(8-Benzo[b]thiophen-2-yl-1,4-dioxa-spiro[4.5]dec-8-yl)-dimethyl-amine hydrochloride (0.60 g, 1.7 mmol) was dissolved in water (0.8 ml), concentrated hydrochloric acid (1.04 ml, 151 mmol) was added and the mixture was stirred at room temperature for 3 d. When the hydrolysis had ended, the reaction mixture was extracted with diethyl ether (2×25 ml) and the aqueous phase was rendered alkaline with 5 N sodium hydroxide solution, the mixture was extracted with methylene chloride (3×25 ml) and the extract was dried over sodium sulfate and concentrated i. vac. Yield: 0.44 g (95%) Ket-6

reactant | (8-Benzo[b]thiophen-2-yl-1,4-dioxa-spiro[4.5]dec-8-yl)-dimethyl-amine hydrochloride | 1.7 mmol, 0.60 g | Cl.S1C2=C(C=C1C1(CCC3(OCCO3)CC1)N(C)C)C=CC=C2
reactant | hydrochloric acid | 151 mmol, 1.04 ml | Cl | ClH
solvent | water | 0.8 ml | O | H2O
product | 4-Benzo[b]thiophen-2-yl-4-dimethylamino-cyclohexanone | S1C2=C(C=C1C1(CCC(CC1)=O)N(C)C)C=CC=C2 | C16H19NOS
